US08497275B2
Part A. Preparation of (S)-tert-butyl 2-(methylamino)-2-oxo-1-phenylethylcarbamate
To a solution of (S)-2-(tert-butoxycarbonylamino)-2-phenylacetic acid (1.00 g, 3.98 mmol) in DMF (5 mL) and methylene chloride (5 mL) was added methylamine hydrochloride (403 mg, 5.97 mmol), HOBt (645 mg, 4.78 mmol), and Hunig's Base (1.73 mL, 9.95 mmol) and the resulting solution stirred at 0° C. for 10 minutes. EDCI (916 mg, 4.78 mmol) was added and the reaction stirred at 25° C. for 18 hours. The mixture was concentrated in vacuo, the resulting residue was diluted with ethyl acetate (45 mL), brine (10 mL), and 5% H3PO4 aqueous solution (10 mL), and the layers were separated. The organic layer was washed with 5% H3PO4 aqueous solution (10 mL), twice with saturated aqueous sodium bicarbonate solution (15 mL), water (15 mL), and brine (15 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a light colored solid. The crude material was taken on directly to the next step. (1.04 g, 99% yield) MS (ESI+) m/z=265 (M+H)+.

reactant | (S)-2-(tert-butoxycarbonylamino)-2-phenylacetic acid | 3.98 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | methylamine hydrochloride | 5.97 mmol, 403 mg | Cl.CN
reactant | HOBt | 4.78 mmol, 645 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's Base | 9.95 mmol, 1.73 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 4.78 mmol, 916 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 2-(methylamino)-2-oxo-1-phenylethylcarbamate | 99% yield | CNC([C@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C14H20N2O3
